US07060827B2
In like manner to the reduction of diethyl 2-methyl-2-(3-nitrophenoxy)malonate, methyl 3-methoxy-4-[(6-nitroindazol-1-yl)methyl]benzoate was reduced to provide methyl 4-[(6-aminoindazol-1-yl)methyl]benzoate. 1H NMR (CDCl3): δ 7.88 (s, 1H), 7.53 (d, 1H, J=8.8 Hz), 7.51 (d, 1H, J=8.8 Hz), 7.50 (d, 1H, J=1.7 Hz), 6.67 (d, 1H, J=8.8 Hz), 6.56 (dd, 1H, J=1.7 and 8.8 Hz), 6.45 (d, 1H, J=1.2 Hz), 5.50 (s, 2H), 3.94 (s, 3H), 3.87 (s, 3H), 3.79 (br s, 2H).

reactant | diethyl 2-methyl-2-(3-nitrophenoxy)malonate | CC(C(=O)OCC)(C(=O)OCC)OC1=CC(=CC=C1)[N+](=O)[O-] | C14H17NO7
reactant | methyl 3-methoxy-4-[(6-nitroindazol-1-yl)methyl]benzoate | COC=1C=C(C(=O)OC)C=CC1CN1N=CC2=CC=C(C=C12)[N+](=O)[O-] | C17H15N3O5
product | methyl 4-[(6-aminoindazol-1-yl)methyl]benzoate | NC1=CC=C2C=NN(C2=C1)CC1=CC=C(C(=O)OC)C=C1 | C16H15N3O2
